US07935699B2
In a round bottomed flask was placed 2-methyl-1-(3-nitro-pyrazol-1-yl)-propan-2-ol (170 mg, 0.92 mmol) and N,N-dimethylformamide (5 mL) and it was placed in an ice bath and cooled to 0° C. To this stirred solution was added triethylsilyl chloride (169 mL, 1.01 mmol) and imidazole (156 mg, 2.30 mmol) and it was stirred at 0° C. and slowly warmed to 25° C. and stirred for two days. The reaction was then diluted with ethyl acetate (15 mL) and washed with a saturated aqueous brine solution (10 mL). The aqueous layer was then extracted with ethyl acetate (2×15 mL). The organic layers were then combined and dried over sodium sulfate, filtered and concentrated in vacuo. Purification by AnaLogix Intelliflash system (4 g column, 5% ethyl acetate/hexanes to 20% ethyl acetate/hexanes) afforded 1-(2-methyl-2-triethylsilanyloxy-propyl)-3-nitro-1H-pyrazole (197 mg, 72%) as a clear colorless oil: ES-HRMS m/e calcd for C13H25N3O3Si (M+H)+ 300.1738, observed 300.1737; 1H NMR (300 MHz, CDCl3) δ ppm 0.58 (q, J=8.0 Hz, 6H, 3×SiCH2), 0.92 (t, J=8.0 Hz, 9H, 3×CH3), 1.26 (s, 6H, 2×CH3), 4.12 (s, 2H, NCH2), 6.89 (d, J=2.5 Hz, 1H, Ar), 7.56 (d, J=2.5 Hz, 1H, Ar).

reactant | 2-methyl-1-(3-nitro-pyrazol-1-yl)-propan-2-ol | 0.92 mmol, 170 mg | CC(CN1N=C(C=C1)[N+](=O)[O-])(C)O | C7H11N3O3
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | triethylsilyl chloride | 1.01 mmol, 169 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | imidazole | 2.30 mmol, 156 mg | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-methyl-2-triethylsilanyloxy-propyl)-3-nitro-1H-pyrazole | 197 mg, 72% | CC(CN1N=C(C=C1)[N+](=O)[O-])(C)O[Si](CC)(CC)CC | C13H25N3O3Si
